### PR TITLE
feat(RingTheory): generalize relNorm_eq_pow_of_isMaximal to separable fraction field extensions

### PR DESCRIPTION
**Pull request by vaca22**
This PR relaxes the hypothesis of Ideal.relNorm_eq_pow_of_isMaximal and its supporting Ring.NormalClosure instances.
Originally the theorem required the fraction ring of base Dedekind domain R to be a perfect field. Now we only require the fraction field extension to be separable.
The perfect field condition excludes function fields with imperfect constant fields, which is an important case we want to support. The core mathematical insight is that the normal closure of a separable field extension stays separable, so we can construct the Galois structure without a perfect base.
This change is fully backwards compatible: any existing code relying on the old perfect field assumption still compiles, since perfect fields automatically give separable extensions. Only two files are modified: NormalClosure.lean and RelNorm.lean, with small diff and no extra imports.
AI disclosure: I used AI tools to assist with initial code drafting and full CI validation. All mathematical reasoning and proof logic I worked through independently, and I can explain every adjustment in review. My original PR text relied too heavily on AI output, I’ve fully rewritten this description manually.

### CODE REVIEW

**Comment by felixpernegger** [comment]
LLM-generated

**Comment by felixpernegger** [comment]
@vaca22 if you take a look at the AI guidelines, you shouldnt write PR descriptions entirely with AI. Maybe you can rewrite it with your own words?

**Comment by vaca22** [comment]
> @vaca22 if you take a look at the AI guidelines, you shouldnt write PR descriptions entirely with AI. Maybe you can rewrite it with your own words?

Thanks a lot for pointing this out, I totally understand the guideline about avoiding fully AI-written PR descriptions.
All the math proofs and refactoring logic I re-derived and verified on my own, I just over-relied on AI to draft the full PR text initially.
I’ve rewritten the entire description with my own words now to fix this issue.

File: Mathlib/RingTheory/Ideal/Norm/RelNorm.lean [hunk 1]
```diff
@@ -433,7 +433,11 @@ theorem relNorm_eq_pow_of_isPrime_isGalois [p.IsMaximal] [P.IsPrime]
   rw [one_eq_top]
   exact IsMaximal.ne_top inferInstance
 
-theorem relNorm_eq_pow_of_isMaximal [PerfectField (FractionRing R)] [P.IsMaximal] [p.IsMaximal] :
+/-- The relative norm of a maximal ideal is the prime below it raised to the inertia degree,
```
Comment (xroblot) [inline Mathlib/RingTheory/Ideal/Norm/RelNorm.lean:437]: Please fix the docstring. It should not refer to a previous version

Comment (vaca22) [reply Mathlib/RingTheory/Ideal/Norm/RelNorm.lean:437]: Done, thanks!

**Comment by xroblot** [comment]
Please fix the CI error (you probably just need to merge master)

**Comment by vaca22** [comment]
Fixed — merging master resolved the CI cache-verification error. All checks are green now, thanks!

**Comment by xroblot** [comment]
It is a nice generalization since `IsSeparable` is the right hypothesis here. 

About the two new local instances: `Normal K E` is already an instance for a normal closure, but the fact that  the normal closure of a separable extension is separable is missing. Thus you should add a new general instance: 
``` lean
instance [Algebra.IsSeparable F K] : IsGalois F (normalClosure F K L) where
    to_isSeparable := (your proof)
    to_normal := inferInstance
```
That way, `IsGalois K E` resolves directly (and you get `Algebra.IsSeparable K E` for free through the projection), so both local instances can go.

**Comment by vaca22** [comment]
> It is a nice generalization since `IsSeparable` is the right hypothesis here.
> 
> About the two new local instances: `Normal K E` is already an instance for a normal closure, but the fact that the normal closure of a separable extension is separable is missing. Thus you should add a new general instance:
> 
> ```lean
> instance [Algebra.IsSeparable F K] : IsGalois F (normalClosure F K L) where
>     to_isSeparable := (your proof)
>     to_normal := inferInstance
> ```
> 
> That way, `IsGalois K E` resolves directly (and you get `Algebra.IsSeparable K E` for free through the projection), so both local instances can go.

Thanks, done. I split it into IntermediateField.normalClosure.isSeparable and IsGalois.normalClosure_of_isSeparable, and kept the existing IsGalois.normalClosure since [IsGalois k F] doesn't give Algebra.IsSeparable k K by instance search. Both local instances are gone.

**Comment by xroblot** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/6c04ccae533189a4b04de1af772dc23d67ecca34?reference=9b53612f8d8de79c06e752024f9b087e9ea5d0fa) for 6c04ccae533189a4b04de1af772dc23d67ecca34 against 9b53612f8d8de79c06e752024f9b087e9ea5d0fa are in. No significant results found. @xroblot

- ✅ `build//instructions`: **-288.1G** (**-0.20%**)

**Medium changes (1✅)**

- *1 hidden*

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 2]
```diff
@@ -575,7 +575,24 @@ end GaloisEquivalentDefinitions
...
+
+/-- Let $F / K / k$ be a tower of field extensions. If $K$ is separable over $k$,
+then the normal closure of $K$ over $k$ in $F$ is separable over $k$. -/
+instance IntermediateField.normalClosure.isSeparable [Algebra.IsSeparable k K] :
+    Algebra.IsSeparable k (normalClosure k K F) := by
+  rw [← le_separableClosure_iff]
+  refine normalClosure_le_iff.mpr fun f ↦ ?_
+  have : Algebra.IsSeparable k f.fieldRange :=
+    AlgEquiv.Algebra.isSeparable (AlgEquiv.ofInjectiveField f)
+  exact le_separableClosure k F f.fieldRange
```
Comment (xroblot) [inline Mathlib/FieldTheory/Galois/Basic.lean:588]:
```suggestion
/-- Let `F / K / k` be a tower of field extensions. If `K` is separable over `k`,
then the normal closure of `K/k` in `F` is separable over `k`. -/
instance IntermediateField.normalClosure.isSeparable [Algebra.IsSeparable k K] :
    Algebra.IsSeparable k (normalClosure k K F) := by
  refine (le_separableClosure_iff _ _ _).mp <| normalClosure_le_iff.mpr fun f ↦ ?_
  have : Algebra.IsSeparable k f.fieldRange :=
    AlgEquiv.Algebra.isSeparable (AlgEquiv.ofInjectiveField f)
  exact le_separableClosure k F f.fieldRange
```

Comment (xroblot) [reply Mathlib/FieldTheory/Galois/Basic.lean:588]: Actually, it seems the `$` notation is also used in this file so you can disregard the part about the docstring

**Comment by vaca22** [comment]
Applied, thanks — golfed to the single `refine` via `le_separableClosure_iff` and switched the docstring to backticks. Built `Mathlib.FieldTheory.Galois.Basic` locally, all green.

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 3]
```diff
@@ -575,7 +575,23 @@ end GaloisEquivalentDefinitions
 section normalClosure
 
 variable (k K F : Type*) [Field k] [Field K] [Field F] [Algebra k K] [Algebra k F] [Algebra K F]
-  [IsScalarTower k K F] [IsGalois k F]
+  [IsScalarTower k K F]
+
+/-- Let `F / K / k` be a tower of field extensions. If `K` is separable over `k`,
+then the normal closure of `K/k` in `F` is separable over `k`. -/
+instance IntermediateField.normalClosure.isSeparable [Algebra.IsSeparable k K] :
```
Comment (xroblot) [inline Mathlib/FieldTheory/Galois/Basic.lean]: This result and the next one probably belong to another file. You try to use "find_home" to find a place for them

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 4]
```diff
@@ -575,7 +575,23 @@ end GaloisEquivalentDefinitions
...
+    Algebra.IsSeparable k (normalClosure k K F) := by
+  refine (le_separableClosure_iff _ _ _).mp <| normalClosure_le_iff.mpr fun f ↦ ?_
+  have : Algebra.IsSeparable k f.fieldRange :=
+    AlgEquiv.Algebra.isSeparable (AlgEquiv.ofInjectiveField f)
+  exact le_separableClosure k F f.fieldRange
+
+/-- Let $F / K / k$ be a tower of field extensions. If $K$ is separable over $k$ and $F$ is normal
```
Comment (xroblot) [inline Mathlib/FieldTheory/Galois/Basic.lean:580]: Use similar formatting for both docstrings please

Comment (xroblot) [reply Mathlib/FieldTheory/Galois/Basic.lean:580]: (I meant this one and the one above)

File: Mathlib/FieldTheory/Galois/Basic.lean (hunk 3 above)
Comment (vaca22) [reply Mathlib/FieldTheory/Galois/Basic.lean]: Ran find_home: it only returns [Mathlib], because elaborating in a full-Mathlib environment pulls in unrelated instance paths (min_imports lists Henselian, RegularLocalRing.Defs...). Doing it by hand, this instance only needs SeparableClosure + Normal.Closure, and SeparableClosure already imports Normal.Closure transitively, so I moved it to Mathlib/FieldTheory/SeparableClosure.lean, right after separableClosure.normalClosure_eq_self which uses the very same argument. No new imports. The IsGalois instance below needs IsGalois itself, so I kept it next to IsGalois.normalClosure. Full Mathlib builds clean.

File: Mathlib/FieldTheory/Galois/Basic.lean (hunk 4 above)
Comment (vaca22) [reply Mathlib/FieldTheory/Galois/Basic.lean:580]: Done, both docstrings now use the $...$ formatting of the rest of the section.

**Comment by vaca22** [comment]
Fixed the lint failure: normalClosure F K E only needs the F-algebra homs K →ₐ[F] E, so the unused [Algebra K E] and [IsScalarTower F K E] binders are gone (docstring no longer claims a tower). Built the touched modules and ran runLinter on them locally, all clean.

**Comment by xroblot** [comment]
LGTM. Still there is one point I'd like to flag. Your PR replaces `PerfectField (FractionRing R)` by `Algebra.IsSeparable (FractionRing R) (FractionRing S)`. But this cannot be inferred in general without some extra input since there is no instance to deduce `Algebra (FractionRing R) (FractionRing S)` from `Algebra R S` (`FractionRing.liftAlgebra` is not an instance). So now using the lemmas will carry the extra burden of defining this algebra structure.
I am not sure if this is a real problem but it is something to think about.

**Review by xroblot — APPROVED** [review]

**Comment by vaca22** [comment]
Thanks! I checked this in a separate file with no local instance: a caller that only has PerfectField (FractionRing R) can apply relNorm_eq_pow_of_isMaximal directly. The algebra is fixed to FractionRing.liftAlgebra inside the statement, and separability is then found automatically from perfectness. The extra setup is only needed in the genuinely new non-perfect case, where the hypothesis must be stated with liftAlgebra. So I did not add a separate PerfectField corollary, since it would just duplicate the lemma.

**Comment by xroblot** [comment]
Very well, in this case, I am removing my objection.
